US06407092B1
Preparation of benzyl 4-oxo-1-azepanecarboxylate
A solution of potassium hydroxide (24.6 g, 375 mmol) in H2O (400 ml) was added to a solution of 1-benzyl 4-ethyl 5-oxo-1,4-azepanedicarboxylate (40.0 g, 125 mmol) in ethanol (400 ml). The resulting mixture was heated at reflux for 2.5 hours. Reaction was then cooled to rt., the ethanol was removed under reduced pressure, and was diluted with 200 ml brine and 300 ml ethyl acetate. The layers were separated, and the aqueous phase was extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with brine, dried over MgSO4, and concentrated to an orange oil in vacuo. The product was isolated by flash chromatography (silica gel, 40% EtOAc/hexane) yielding a clear, colorless oil (22.6 g, 73%). 1H NMR (CDCl3) δ 7.31-7.30, 5.12, 3.65-3.63, 2.68-2.60, 1.81-1.78; IR (liq.) 1698, 1475, 1454, 1442, 1423, 1331, 1320, 1295, 1270, 1241, 1191, 1165, 1091, 900, 699 cm−1.

reactant | potassium hydroxide | 375 mmol, 24.6 g | [OH-].[K+]
reactant | 1-benzyl 4-ethyl 5-oxo-1,4-azepanedicarboxylate | 125 mmol, 40.0 g | O=C1C(CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C17H21NO5
solvent | H2O | 400 ml | O | H2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | benzyl 4-oxo-1-azepanecarboxylate | 22.6 g, 73% | O=C1CCN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
